US03939159
A stirred solution of 42.4 g (0.165 mole) of 1-(4,5-dichloro-2-nitrophenyl)pyrrole in 730 ml. of tetrahydrofuran and 365 ml. of water is treated according to the manipulative procedure described above in Example 13(b) to give 1-(2-amino-4,5-dichlorophenyl)pyrrole, m.p. 57°-58° C.

reactant | 1-(4,5-dichloro-2-nitrophenyl)pyrrole | 0.165 mole, 42.4 g | ClC1=CC(=C(C=C1Cl)N1C=CC=C1)[N+](=O)[O-] | C10H6Cl2N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-amino-4,5-dichlorophenyl)pyrrole | NC1=C(C=C(C(=C1)Cl)Cl)N1C=CC=C1 | C10H8Cl2N2
